US04582837
5-Hydroxy-2-(2'-methoxy-4'-methanesulfonyloxy-phenyl)-benzimidazole
An amount of 3.2 (9.6 mmol) of 5-amino-2-(2'-methoxy-4'-methanesulfonyloxy-phenyl)-benzimidazole was dissolved in 509 ml of glacial acetic acid, and then a solution of 1.38 gm (20 mmol) of sodium nitrite in 5.0 ml of water was added dropwise, under stirring. After one hour, the mixture was diluted with 100 ml of water, and the solution was refluxed for 1.5 hours. Subsequent to cooling, the solution was adjusted to a pH of 5 with concentrated ammonia and extracted three times, each time with 40 ml of methyl ethyl ketone, and the extracts are dried and concentrated by evaporation in vacuo. The oily residue was chromatographed over 500 gm of aluminium oxide (neutral) (eluant: methylene chloride with 8% ethanol).

reactant | 5-amino-2-(2'-methoxy-4'-methanesulfonyloxy-phenyl)-benzimidazole | NC1=CC2=C(N=C(N2)C2=C(C=C(C=C2)OS(=O)(=O)C)OC)C=C1 | C15H15N3O4S
reactant | sodium nitrite | 20 mmol, 1.38 gm | N(=O)[O-].[Na+]
reactant | ammonia | N | H3N
solvent | acetic acid | 509 ml | C(C)(=O)O | C2H4O2
solvent | water | 5.0 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 5-Hydroxy-2-(2'-methoxy-4'-methanesulfonyloxy-phenyl)-benzimidazole | OC1=CC2=C(N=C(N2)C2=C(C=C(C=C2)OS(=O)(=O)C)OC)C=C1 | C15H14N2O5S
